*$
*//-----------------------------------------------------------------------// 
*//   Part No.    : HHXC630ARA100MF61G
*//   Date        : 2023/03/07
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2023 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------// 

.SUBCKT HHXC630ARA100MF61G_20deg-C 1 2

C1 4 2 8.16e-06
C2 5 2 7.83e-07
C3 6 2 1.72e-07
R1 3 4 2.45e-02
R2 4 5 1.33e+00
R3 5 6 1.24e+02
L1 1 3 2.60e-09

.ENDS
*$
